US08067447B2
(E)-3-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethyl-N-(1,3,4-thiadiazol-2-yl)hex-3-enamide
Example 139 was prepared from (E)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhex-3-enoic acid (105 mg, 0.29 mmol) and 1,3,4-thiadiazol-2-amine using General Coupling Method B to give 30 mg (25% yield). MS found: (M+H)+=450.

reactant | (E)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhex-3-enoic acid | 0.29 mmol, 105 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)/C(/C(C(=O)O)(C)C)=C\C(C)C | C22H23FN2O2
reactant | 1,3,4-thiadiazol-2-amine | S1C(=NN=C1)N | C2H3N3S
product | (E)-3-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethyl-N-(1,3,4-thiadiazol-2-yl)hex-3-enamide | 25% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)/C(/C(C(=O)NC=1SC=NN1)(C)C)=C\C(C)C | C24H24FN5OS
